US07598423B2
Synthesis of N-hydroxy-2-(3-iodo-phenyl)-acetamidine
Add sodium carbonate (2.0 g, 18.5 mmol) to a mixture of 3-iodophenylacetonitrile (4.5 g, 18.5 mmol) and hydroxylamine hydrochloride (1.3 g, 18.5 mmol) in 10:1 EtOH:H2O (11 mL). Heat the reaction mixture to 50° C. for 2 days. Cool to RT, then filter to remove the solids. Concentrate the filtrate to afford the title compound (4.94 g). LC-MS (m/e): 277 (M+1).

reactant | sodium carbonate | 18.5 mmol, 2.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-iodophenylacetonitrile | 18.5 mmol, 4.5 g | IC=1C=C(C=CC1)CC#N | C8H6IN
reactant | hydroxylamine hydrochloride | 18.5 mmol, 1.3 g | Cl.NO
reactant | EtOH | CCO | C2H6O
solvent | H2O | 11 mL | O | H2O
product | N-hydroxy-2-(3-iodo-phenyl)-acetamidine | 4.94 g | ONC(CC1=CC(=CC=C1)I)=N | C8H9IN2O
